US07687495B2
b) [(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-methanol
Similar to example 1, 0.45 g of (2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidine-2-carboxylic acid ethyl ester are reacted with lithium aluminium hydride to afford the title compound as a yellow oil. Rf=0.3 (EtOAc-heptane 2:1); Rt=4.82.

reactant | (2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidine-2-carboxylic acid ethyl ester | 0.45 g | C(C)OC(=O)[C@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)OC)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C | C35H44N2O8S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-methanol | COC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CO | C33H42N2O7S
